US04798897
Substantially the same procedures as in Example 13 were repeated except that 5.84 g to 1-(5-isoquinolinesulfonyl)-3-hydroxypiperidine was used in place of 5.84 g of 1-(5-isoquinolinesulfonyl)-4-hydroxypiperidine and that 2.9 g of the thus obtained 1-(5-isoquinolinesulfonyl)-3-piperidone was reacted in methanol with 2.31 g of ammonium acetate and 0.63 g of sodium cyanoborohydride at 20° C. for 24 hours. There was obtained 2.37 g of 1-(5-isoquinolinesulfonyl)-3-aminopiperidine [Compound(63)]. Compound (63) was analyzed to give the following data.

reactant | 1-(5-isoquinolinesulfonyl)-3-hydroxypiperidine | C1=NC=CC=2C(=CC=CC12)S(=O)(=O)N1CC(CCC1)O | C14H16N2O3S
reactant | 1-(5-isoquinolinesulfonyl)-3-piperidone | C1=NC=CC=2C(=CC=CC12)S(=O)(=O)N1CC(CCC1)=O | C14H14N2O3S
reactant | ammonium acetate | 2.31 g | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 0.63 g | C(#N)[BH3-].[Na+]
solvent | methanol | CO | CH4O
product | 1-(5-isoquinolinesulfonyl)-3-aminopiperidine | 2.37 g | C1=NC=CC=2C(=CC=CC12)S(=O)(=O)N1CC(CCC1)N | C14H17N3O2S
